US07332508B2
1-Cyclopentyl-4-{3-[5-cyclopropyl[1,2,4]oxadiazol-3-yl]propyl}piperidine, hydrochloride
The title compound was prepared by a similar procedure to that described in Example 3, starting from 4-(1-cyclopentylpiperidin-4-yl)-N-hydroxybutyramidine and cyclopropylcarbonyl chloride.

reactant | 4-(1-cyclopentylpiperidin-4-yl)-N-hydroxybutyramidine | C1(CCCC1)N1CCC(CC1)CCCC(=N)NO | C14H27N3O
reactant | cyclopropylcarbonyl chloride | C1(CC1)C(=O)Cl | C4H5ClO
product | 1-Cyclopentyl-4-{3-[5-cyclopropyl[1,2,4]oxadiazol-3-yl]propyl}piperidine, hydrochloride | Cl.C1(CCCC1)N1CCC(CC1)CCCC1=NOC(=N1)C1CC1 | InChI=1S/C18H29N3O.ClH/c1-2-6-16(5-1)21-12-10-14(11-13-21)4-3-7-17-19-18(22-20-17)15-8-9-15;/h14-16H,1-13H2;1H
